US06569854B1
1.5 g of glutaric anhydride and then 1.66 g of N-propylpiperazine in solution in 5 cm3of dioxane are added to 10 cm3 of dioxane in a round-bottomed flask kept under an argon atmosphere. After stirring for 2.5 hours at room temperature, the solvent is evaporated under reduced pressure and then the resulting oil is supplemented with 100 cm3 of diethyl ether. After stirring for one hour, the solid obtained is filtered, dried at 20° C. (90 Pa) to give 2.47 g of 5-oxo-5-(4-propylpiperazin-1-yl)pentanoic acid in the form of a white solid which is used as it is.

reactant | glutaric anhydride | 1.5 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | N-propylpiperazine | 1.66 g | C(CC)N1CCNCC1 | C7H16N2
solvent | dioxane | 10 cm3 | O1CCOCC1 | C4H8O2
product | 5-oxo-5-(4-propylpiperazin-1-yl)pentanoic acid | 2.47 g | O=C(CCCC(=O)O)N1CCN(CC1)CCC | C12H22N2O3
